US09085555B2
B. 2,2′-Difluoro-biphenyl-3-ylamine
To a suspension of 2,2′-difluoro-3-nitro-biphenyl (100 mg, 0.36 mmol) in methanol (5 mL) were added a 3N aqueous HCl solution (7.23 mL, 21.7 mmol) and Zn powder (426 mg, 6.51 mmol). The mixture was stirred 4 h at RT. The reaction mixture was concentrated and neutralized with saturated aqueous NaHCO3 solution, then diluted with an equal volume of water and extracted (×3) with CH2Cl2. The combined organics were dried (Phase Separator) and concentrated in vacuo to give the title compound. MS (LC-MS): 206 [M+H]+; tR (HPLC conditions k): 3.30 min.

reactant | 2,2′-difluoro-3-nitro-biphenyl | 0.36 mmol, 100 mg | FC1=C(C=CC=C1[N+](=O)[O-])C1=C(C=CC=C1)F | C12H7F2NO2
reactant | HCl | 21.7 mmol, 3N, 7.23 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
catalyst | Zn | 6.51 mmol, 426 mg | [Zn] | Zn
product | 2,2′-Difluoro-biphenyl-3-ylamine | FC1=C(C=CC=C1N)C1=C(C=CC=C1)F | C12H9F2N
